US09193728B2
Preparation of 1-nitroso-3-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline
To a solution of 3-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline (0.4 g, 0.0019 mol) in ethanol (1.7 mL) was added 1N hydrochloric acid (1.7 mL). The reaction mixture was cooled to 0° C., and a solution of sodium nitrite (0.262 g, 0.0038 mol) in water (5.5 mL) was added at 0° C. The reaction mixture was warmed to RT and stirred for 1 h. After completion of reaction (monitored by TLC), solvent was removed under reduced pressure to obtain product as a brown colored oil (0.41 g).

reactant | 3-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline | 0.0019 mol, 0.4 g | N1=CC=C(C=C1)C1CNC2=CC=CC=C2C1 | C14H14N2
reactant | hydrochloric acid | 1N, 1.7 mL | Cl | ClH
reactant | sodium nitrite | 0.0038 mol, 0.262 g | N(=O)[O-].[Na+]
solvent | ethanol | 1.7 mL | C(C)O | C2H6O
solvent | water | 5.5 mL | O | H2O
product | 1-nitroso-3-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline | 0.41 g | N(=O)N1CC(CC2=CC=CC=C12)C1=CC=NC=C1 | C14H13N3O
